* C:\Users\berto\NotSync\GitHub\Laboratorio_3\Esperienza_03\Circuiti\Circ_2.asc
C2 0 N004 0.1µ
V1 0 N004 +15
V2 N001 0 +15
C1 N001 0 0.1µ
XU2 N003 N002 N001 N004 N002 level3a Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 Phimargin=45 En=0 Enk=0 In=0 Ink=0 Rin=500Meg Ro=1k Ccm=1p Cdiff=2p
Vpre_ideal B 0 PULSE(0 -1 0 1n 1n 5u 1m 2)
Csh1 N003 B 150p
Rsh1 N003 0 100k
Rsh2 OUT N002 100k
Csh2 OUT 0 150p
.tran 100u
.lib UniversalOpamp.lib
.backanno
.end
