* Z:\home\fabio\Laboratorio_3\Esperienza_03\Circuiti\Circ_2.asc
C2 0 N005 0.1µ
V1 0 N005 +15
V2 N001 0 +15
C1 N001 0 0.1µ
XU2 N004 N002 N001 N005 N002 level3a Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 Phimargin=45 En=0 Enk=0 In=0 Ink=0 Rin=500Meg Ro=1k Ccm=1p Cdiff=2p
Vpre_ideal B 0 PULSE(0 1 0 1n 1n 0.01 1m 2) AC 1
Csh1 N004 B 97p
Rsh1 N004 0 147.99k
Rsh2 N003 N002 148.02k
Csh2 N003 0 100p
R1 N003 0 10000000
C3 N003 0 15p
;tran 100u
;dc Vpre_ideal 10 1000000  dec Vpre_ideal 32 10000
.ac dec 10 100 1000000
.lib UniversalOpamp.lib
.backanno
.end
